US08455483B2
N-(3-(tert-Butyldimethylsilyloxy)propyl)butan-1-amine
Butan-1-amine (8 mL) was added to (3-bromopropoxy)(tert-butyl)dimethylsilane (0.8 g) and the resulting mixture stirred overnight at RT. The volatiles were removed by concentration under reduced pressure and the residue was partitioned between saturated sodium bicarbonate solution (20 mL) and ethyl acetate (25 mL). The phases were separated and the aqueous phase was extracted with more ethyl acetate (2×25 mL). The combined organic phases were washed with brine (25 mL), dried over sodium sulphate, filtered and evaporated to give the titled compound as a clear oil. Yield 0.75 g.

reactant | Butan-1-amine | 8 mL | C(CCC)N | C4H11N
reactant | (3-bromopropoxy)(tert-butyl)dimethylsilane | 0.8 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
product | N-(3-(tert-Butyldimethylsilyloxy)propyl)butan-1-amine | [Si](C)(C)(C(C)(C)C)OCCCNCCCC | C13H31NOSi
